US06828330B2
3-Methyl-1,2-benzisoxazole-6-carboxylic acid (139 mg, 0.78 mmole) is combined with (3R)-aminoquinuclidine dihydrochloride (156 mg, 0.78 mmole) and DIEA (272 μL, 1.56 mmole) in 3 ml DMF under nitrogen. The mixture is treated with HATU (296 mg, 0.78 mmole), and the reaction is stirred overnight at rt. The volatiles are removed in vacuo and the residue is partitioned between 1×10 ml 10% MeOH/CHCl3 and 1×10 ml 1:1 saturated sodium chloride/conc. NH4OH. The aqueous layer is washed with 1×10 ml CHCl3 and the combined organic layer is dried over K2CO3. The dried organic layer is concentrated in vacuo to give an amber residue. The crude material is chromatographed over 15 g silica gel (230-400 mesh) eluting with 7% MeOH/CHCl3+1% conc. NH4OH. The appropriate fractions are combined and concentrated to give a pale foam. The foam is crystallized from Et2O to provide 163 mg (72%) of N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-3-methyl-1,2-benzisoxazole-6-carboxamide as an off-white solid. MS (EI) m/z: 285 (M+).

reactant | 3-Methyl-1,2-benzisoxazole-6-carboxylic acid | 0.78 mmole, 139 mg | CC1=NOC2=C1C=CC(=C2)C(=O)O | C9H7NO3
reactant | DIEA | 1.56 mmole, 272 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.78 mmole, 296 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-3-methyl-1,2-benzisoxazole-6-carboxamide | 163 mg, 72% | N12C[C@@H](C(CC1)CC2)NC(=O)C2=CC1=C(C(=NO1)C)C=C2 | C16H19N3O2
